US07378412B2
a) Synthesis of N-(4-bromobutyryl)-β-alanyl-(L)-histidine
To a solution of carnosine (5 g, 22.1 mmoles) in N,N-dimethylformamide (80 ml), triethylamine (4.62 ml, 33.1 mmoles) and 4-bromobutyrylchloride (chloride of 4-bromobutyric acid-83.85 ml, 33.1 mmoles) are added. The solution is left under stirring for 24 hours at room temperature, then it is diluted with ethyl acetate and the organic phase is washed with water. The organic phase is then anhydrified with sodium sulphate and evaporated at reduced pressure. The obtained crude product is purified by chromatography on silica gel eluting with ethyl acetate, obtaining the final product.

reactant | carnosine | 22.1 mmoles, 5 g | C1=C(NC=N1)C[C@@H](C(=O)O)NC(=O)CCN | C9H14N4O3
reactant | triethylamine | 33.1 mmoles, 4.62 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromobutyrylchloride | 33.1 mmoles, 83.85 ml | BrCCCC(=O)Cl | C4H6BrClO
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-bromobutyryl)-β-alanyl-(L)-histidine | BrCCCC(=O)NCCC(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C13H19BrN4O4
